US07153855B2
To a solution of 1-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (11.3 g, 36.2 mmol) in chloroform (300 mL) was added manganese dioxide (78.9 g, 905 mmol). The reaction mixture was stirred at room temperature for 18 hours. The suspension was filtered through a pad of Celite and the filtrate was concentrated and purified by flash chromatography (7:3 hexanes:ethyl acetate). 1-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (4.57 g, 41%) was obtained as a pale yellow crystalline. 1H NMR (CDCl3) δ 8.48 (d, 1H), 7.51 (m, 3H), 7.33 (t, 1H), 7.29 (d, 1H), 8.21 (dd, 1H), 2.89 (s, 1H), 2.42 (s, 3H); MS m/z 295 (M+1).

reactant | 1-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | 36.2 mmol, 11.3 g | ClC1=CC=CC=2N1N=C(C2C(C#C)O)C2=CC(=CC=C2)C | C17H13ClN2O
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 905 mmol, 78.9 g | [O-2].[O-2].[Mn+4]
product | 1-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 4.57 g, 41% | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C2=CC(=CC=C2)C | C17H11ClN2O
